US20010036946A1
1-[N2-(phenylmethoxycarbonyl)-N6-(1,1-dimethyl-ethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)piperazine
To a mixture of 100 g (0.263 mol) of Z-Lys(Boc)-OH, 86.1 g (0.268 mol) of TBTU and 36.3 g (0.263 mol) of HOBt in 600 ml of dimethylformamide were added 43.0 g (0.263 mol) of 1-(4-pyridinyl)-piperazine and 47.2 ml (0.268 mol) of DIEA with stirring and the mixture was stirred overnight at room temperature. The reaction mixture was evaporated down in vacuo and the residue divided between ethyl acetate and aqueous saturated sodium hydrogen carbonate solution. The aqueous phase was extracted twice more with a mixture of ethyl acetate/methanol (10/1,v/v) and the combined organic phases were washed once with saturated sodium hydrogen carbonate solution. The organic phase was, after drying over sodium sulphate, evaporated down in vacuo and the residue was taken up in 750 ml of ethyl acetate and washed four times with 100 ml of water, six times with 100 ml of 1l potassium hydrogen sulphate solution, once with 100 ml of water, twice with 100 ml of 3% aqueous ammonia solution and twice with 100 ml of water. The organic phase was evaporated down after drying over sodium sulphate. 120 g (87% of theory) of the desired product were obtained as an oil, which was used without further purification for the subsequent reactions. IR (KBr): 1709 cm−1 (C═O) Rf (FM1) : 0.59 EI-MS: M+=525

reactant | Z-Lys(Boc)-OH | 0.263 mol, 100 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H28N2O6
reactant | TBTU | 0.268 mol, 86.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.263 mol, 36.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(4-pyridinyl)-piperazine | 0.263 mol, 43.0 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | DIEA | 0.268 mol, 47.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 1-[N2-(phenylmethoxycarbonyl)-N6-(1,1-dimethyl-ethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)piperazine | C1(=CC=CC=C1)COC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C1=CC=NC=C1 | C28H39N5O5
